US06716861B2
(3R)-6-cyclohexyl-3-{3-[1-(methylsulfonyl)-3-azetidinyl]-1,2,4-oxadiazol-5-yl}hexanoic acid
A solution of methyl (3R)-6-cyclohexyl-3-{3-[1-(methylsulfonyl)-3-azetidinyl]-1,2,4-oxadiazol-5-yl}hexanoate (preparation 38) (780 mg, 1.05 mmol) in dioxan (20 ml) and H2O (10 ml) was treated with LiOH.H2O (218 mg, 5.2 mmol) and stirred at room temperature for 2.25 hours. The reaction mixture was acidified with 2M HCl (20 ml) and extracted with EtOAc. The organic extract was washed with H2O and the solvent was removed under reduced pressure. The oil was purified on a silica column eluting with a solvent gradient of DCM:MeOH:AcOH (100:0:0) gradually changing to (90:10:1) to afford a colourless oil which solidified on standing. The solid was triturated with pentane, filtered off and dried under reduced pressure to afford the title compound as a white solid (372 mg, 78%).

reactant | methyl (3R)-6-cyclohexyl-3-{3-[1-(methylsulfonyl)-3-azetidinyl]-1,2,4-oxadiazol-5-yl}hexanoate | 1.05 mmol, 780 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC)C1=NC(=NO1)C1CN(C1)S(=O)(=O)C | C19H31N3O5S
reactant | LiOH.H2O | 5.2 mmol, 218 mg | O[Li].O
reactant | HCl | 2M, 20 ml | Cl | ClH
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 10 ml | O | H2O
product | (3R)-6-cyclohexyl-3-{3-[1-(methylsulfonyl)-3-azetidinyl]-1,2,4-oxadiazol-5-yl}hexanoic acid | 372 mg, 78% | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C1CN(C1)S(=O)(=O)C | C18H29N3O5S
